* Auto-generated SPICE netlist (NO TEXT OCR USED)

C1 n5 n7 1u
C2 n8 n4 1u
C3 n2 n3 1u
R1 n4 n5 1k
R2 n4 n8 1k
D1 n3 n4 Ddefault
Q1 n1 n5 n6 QNPNdefault
R3 n3 0 1k
.model Ddefault D
.model QNPNdefault NPN

* --- design-intent repair (does not change topology) ---
Rshunt_n1 n1 0 1e+09
Rshunt_n2 n2 0 1e+09
Rshunt_n7 n7 0 1e+09
Rshunt_n9 n9 0 1e+09

.op
.end
