* Auto-generated SPICE netlist (NO TEXT OCR USED)

C1 n4 0 1u
R1 n3 n4 1k
Q1 n2 n4 n5 QNPNdefault
* UNSNAPPED Inductor raw_nodes=[None, None]
R2 n1 n2 1k
.model QNPNdefault NPN

* --- design-intent repair (does not change topology) ---
Rshunt_n1 n1 0 1e+09
Rshunt_n6 n6 0 1e+09
Rshunt_n7 n7 0 1e+09

.op
.end
